US05438140
Preparation of phenyl 3-pyridiniumpropionate chloride
The title compound was prepared as described in Example 1 from pyridine and phenyl 3-chloropropionate in a yield of 86%.

reactant | phenyl 3-chloropropionate | ClCCC(=O)OC1=CC=CC=C1 | C9H9ClO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | phenyl 3-pyridiniumpropionate chloride | yield of 86% | [Cl-].C(CC)(=O)[O-].C1(=CC=CC=C1)C1=NC=CC=[CH2+]1.C1(=CC=CC=C1)C1=NC=CC=[CH2+]1 | InChI=1S/2C11H10N.C3H6O2.ClH/c2*1-2-6-10(7-3-1)11-8-4-5-9-12-11;1-2-3(4)5;/h2*1-7,9H,8H2;2H2,1H3,(H,4,5);1H/q2*+1;;/p-2
